US04595677
470 mg of Boc-Pro-His-Pro-Phe-His-Sta-Val-Tyr-Lys(Boc)-OMe are dissolved at 25° in 2.3 ml of 95% strength TFA and the whole is left to stand for 30 minutes. The H-Pro-His-Pro-Phe-His-Sta-Val-Tyr-Lys-OMe formed is precipitated at 0° in pulverulent form as the trifluoroacetate by the addition of 20 ml of diisopropyl ether, is filtered off and dried; Rf (C)=0.36; Rf (D)=0.24.

reactant | Boc-Pro-His-Pro-Phe-His-Sta-Val-Tyr-Lys(Boc)-OMe | 470 mg | N1([C@H](C(=O)N[C@@H](CC2=CNC=N2)C(=O)N2[C@H](C(=O)N[C@@H](CC3=CC=CC=C3)C(=O)N[C@@H](CC3=CNC=N3)C(=O)N[C@@H](CC(C)C)[C@@H](O)CC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC3=CC=C(C=C3)O)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)CCC2)CCC1)C(=O)OC(C)(C)C | C70H102N14O16
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | H-Pro-His-Pro-Phe-His-Sta-Val-Tyr-Lys-OMe | N1[C@H](C(=O)N[C@@H](CC2=CNC=N2)C(=O)N2[C@H](C(=O)N[C@@H](CC3=CC=CC=C3)C(=O)N[C@@H](CC3=CNC=N3)C(=O)N[C@@H](CC(C)C)[C@@H](O)CC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC3=CC=C(C=C3)O)C(=O)N[C@@H](CCCCN)C(=O)OC)CCC2)CCC1 | C60H86N14O12
